US06723722B1
(3S)-3-(tert-Butoxycarbonylamino)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-pyrrolidone
(3S)-3-(tert-Butoxycarbonylamino)-1-[1-(4-pyridyl)-4-piperidinylideneamino]-2-pyrrolidone (3.57 g) was dissolved in methanol (40 ml), combined with acetic acid (2.05 g) with cooling on ice, followed by sodium cyanoborohydride (807 mg) and stirred at room temperature for 30 minutes. The reaction mixture was concentrated, and the residue was combined with an aqueous solution of sodium hydroxide, extracted with dichloromethane, dried, concentrated, and purified by a column chromatography (dichloromethane: 10% aqueous ammonia-containing methanol=20:1) to obtain the title compound (2.56 g) as a colorless amorphous material.

reactant | (3S)-3-(tert-Butoxycarbonylamino)-1-[1-(4-pyridyl)-4-piperidinylideneamino]-2-pyrrolidone | 3.57 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N(CC1)N=C1CCN(CC1)C1=CC=NC=C1)=O | C19H27N5O3
reactant | acetic acid | 2.05 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 807 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | (3S)-3-(tert-Butoxycarbonylamino)-1-[1-(4-pyridyl)-4-piperidinylamino]-2-pyrrolidone | 2.56 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N(CC1)NC1CCN(CC1)C1=CC=NC=C1)=O | C19H29N5O3
